US07186734B2
To a solution of 1-methoxyethyl-3,4-dichloroimidazole (1.95 g, 10 mmol) in acetonitrile (50 mL) is added NBS (1.86 g, 1.05 mmol) at room temperature in portions. The reaction mixture is stirred at rt for 30 min. Ethyl acetate (100 mL) is added and washed with water, brine, dried over MgSO4, filtered and evaporated in vacuo to dryness. The crude product is purified by flash chromatography (hexane/ethyl acetate 100/5) to obtain 2-bromo-1-methoxyethyl-3,4-dichloroimidazole.

reactant | 1-methoxyethyl-3,4-dichloroimidazole | 10 mmol, 1.95 g | COC(C)C1=NC=C(N1Cl)Cl | C6H8Cl2N2O
reactant | NBS | 1.05 mmol, 1.86 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2-bromo-1-methoxyethyl-3,4-dichloroimidazole | BrC1=NC(=C(N1Cl)Cl)C(C)OC | C6H7BrCl2N2O
